US05256675
A mixture of 2-acetylamino-5-(4-hydroxypyrimidin-2-ylthio)thiazole (3.7 g) in a mixture of ethanol (100 ml), tetrahydrofuran (40 ml) and aqueous 6N-hydrochloric acid (20 ml) was refluxed for 6.5 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in water. The solution was adjusted to pH 8.5 using aqueous sodium bicarbonate. The precipitates were collected by filtration, washed with water and dried in vacuo to give solid. The solid was subjected to column chromatography on silica gel (silica gel 60, 70-230 mesh; Merck: 250 g) and eluted with a mixture of chloroform and methanol (10:1). The fractions containing the objective compound were combined and concentrated under reduced pressure to give 2-amino-5-(4-hydroxypyrimidin-2-ylthio)thiazole (0.45 g, yield: 14.5%). mp: 210°-220° C. (dec.) IR (Nujol): 3450, 3350, 3125, 1675, 1510,1230 cm-1

reactant | 2-acetylamino-5-(4-hydroxypyrimidin-2-ylthio)thiazole | 3.7 g | C(C)(=O)NC=1SC(=CN1)SC1=NC=CC(=N1)O | C9H8N4O2S2
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-5-(4-hydroxypyrimidin-2-ylthio)thiazole | 0.45 g, yield: 14.5% | NC=1SC(=CN1)SC1=NC=CC(=N1)O | C7H6N4OS2
